US04254130
A mixture of 1 g of ethyl 4-[4-[4-(hydroxydiphenylmethyl)-1-piperidinyl]-1-oxobutyl]-α,α-dimethylbenzeneacetate hydrochloride, 25 ml of methanol and 5 ml of 25% sodium hydroxide solution is stirred and refluxed for 2 hours then concentrated to a solid, neutralized with dilute hydrochloric acid and extracted with hot toluene. The toluene extract is filtered and concentrated to a residue which is recrystallized from chloroform/toluene to give 4-[4-[4-(hydroxydiphenylmethyl)-1-piperidinyl]-1-oxobutyl]-α,α-dimethylbenzeneacetic acid.

reactant | ethyl 4-[4-[4-(hydroxydiphenylmethyl)-1-piperidinyl]-1-oxobutyl]-α,α-dimethylbenzeneacetate hydrochloride | 1 g | Cl.OC(C1CCN(CC1)CCCC(=O)C1=CC=C(C=C1)C(C(=O)OCC)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | sodium hydroxide | 5 ml | [OH-].[Na+]
solvent | methanol | 25 ml | CO | CH4O
product | 4-[4-[4-(hydroxydiphenylmethyl)-1-piperidinyl]-1-oxobutyl]-α,α-dimethylbenzeneacetic acid | OC(C1CCN(CC1)CCCC(=O)C1=CC=C(C=C1)C(C(=O)O)(C)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C32H37NO4
